US05929074
2-Ethyl-4-chloro-5-[3-{2-(4-(4-fluorobenzyl)-piperazin-1-yl)-ethoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone
A mixture comprising 500 mg of 4-chloro-5-[3-{2-(4-(4-fluorobenzyl)-piperazin-1-yl)-ethoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone, 130 mg of ethyl bromide, 190 mg of potassium carbonate and 10 ml of 2-butanone, was refluxed under heating with stirring for 5 hours. Inorganic substances were filtered off, and then the solvent was distilled off under reduced pressure. Water was added to the obtained residue, and the mixture was extracted with chloroform. The extract solution was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off. The obtained residue was purified by silica gel column chromatography (eluent: chloroform/ethanol=19/1) to obtain 429 mg of the above-identified compound as a colorless transparent sticky substance.

reactant | 4-chloro-5-[3-{2-(4-(4-fluorobenzyl)-piperazin-1-yl)-ethoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone | 500 mg | ClC=1C(NN=CC1NCC1=CC(=C(C=C1)OC)OCCN1CCN(CC1)CC1=CC=C(C=C1)F)=O | C25H29ClFN5O3
reactant | ethyl bromide | 130 mg | C(C)Br | C2H5Br
reactant | potassium carbonate | 190 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | 2-Ethyl-4-chloro-5-[3-{2-(4-(4-fluorobenzyl)-piperazin-1-yl)-ethoxy}-4-methoxybenzylamino]-3(2H)-pyridazinone | 429 mg | C(C)N1N=CC(=C(C1=O)Cl)NCC1=CC(=C(C=C1)OC)OCCN1CCN(CC1)CC1=CC=C(C=C1)F | C27H33ClFN5O3
